US07855292B2
A. 2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-acrylic acid
A mixture of 3-bromo-4-fluorobenzaldehyde (50.0 g, 0.25 mol), N-acetylglycine (26.2 g, 0.22 mol), NaOAc (13.8 g, 0.56 mol), and Ac2O (52 mL) was heated at 130° C. for 10 h in a flask fitted with a reflux condenser. The resulting precipitate was collected by filtration, washed with water, and suspended in AcOH (250 mL). This mixture was heated at 100° C. for 1 h in a flask fitted with a reflux condenser, and then was cooled to 0° C. The solids were collected by filtration, washing with water, to give the product as a yellow solid (53.5 g, 76%). MS (ESI−): mass calcd. for C11H9BrFNO3, 301.0; m/z found, 299.9 [M−H]−. 1H NMR (400 MHz, DMSO-d6): 12.80 (br s, 1H), 9.52 (br s, 1H), 7.93 (dd, J=6.9, 1.9, 1H), 7.66 (ddd, J=8.4, 4.8, 1.9, 1H), 7.42 (t, J=8.7, 1H), 7.19 (s, 1H), 1.98 (s, 3H).

reactant | 3-bromo-4-fluorobenzaldehyde | 0.25 mol, 50.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | N-acetylglycine | 0.22 mol, 26.2 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | NaOAc | 0.56 mol, 13.8 g | CC(=O)[O-].[Na+]
reactant | Ac2O | 52 mL | CC(=O)OC(=O)C | C4H6O3
product | 2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-acrylic acid | 53.5 g, 76% | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)F)Br | C11H9BrFNO3
